US04022777
A solution of dimethyl oxaldiimidate (48 parts) in methanol (80 parts) was added to a slurry of 4-chloro-o-phenylenediamine (56 parts) in 0.3% aqueous hydrochloric acid (60 parts). The temperature rose to 54°. The reaction mixture was cooled and filtered to give a brown solid. After washing with THF, 61.4 parts of tan solid remained (80%). Recrystallization from THF or dioxane gave light-yellow crystals of 6-chloro-2,3-diaminoquinoxaline, m.p. 300°-303°.

reactant | 4-chloro-o-phenylenediamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 6-chloro-2,3-diaminoquinoxaline | ClC=1C=C2N=C(C(=NC2=CC1)N)N | C8H7ClN4
